US07122543B2
1-(3,4,5,6-Tetramethoxy-2-methylphenyl-1-(4-benzoyloxyphenyl)methanol
Under ice-cooling, into a Grignard reagent (30 ml, a tetrahydrofuran solution) prepared from 4-(benzyloxy)bromobenzene (8.00 g, 0.030 mol) and magnesium (0.81 g, 0.033 mol) was dropped a solution of 3,4,5,6-tetramethoxy-2-methylbenzaldehyde (3.65 g, 0.015 mol) in anhydrous tetrahydrofuran (20 ml) and the mixture was stirred for 2 hours more. The reaction solution was poured into a saturated aqueous solution of ammonium chloride followed by extracting with ether. The extract was washed with a saturated saline and dried. The reaction solution was filtered and the crude product obtained by concentrating the filtrate was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (5.93 g, 0.014 mol, 92%).

reactant | 4-(benzyloxy)bromobenzene | 0.030 mol, 8.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | magnesium | 0.033 mol, 0.81 g | [Mg] | Mg
reactant | 3,4,5,6-tetramethoxy-2-methylbenzaldehyde | 0.015 mol, 3.65 g | COC=1C(=C(C=O)C(=C(C1OC)OC)OC)C | C12H16O5
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,4,5,6-Tetramethoxy-2-methylphenyl-1-(4-benzoyloxyphenyl)methanol | 0.014 mol, 5.93 g, 92% | COC=1C(=C(C(=C(C1OC)OC)OC)C(O)C1=CC=C(C=C1)OC(C1=CC=CC=C1)=O)C | C25H26O7
